### PR TITLE
feat(ModularForms/PhiTransform): φ₀ transformation rules (Blueprint Lemma 7.2)

### LINKED ISSUE #78: Proving transformation rules for $\phi_0$
Showing $1$-periodicity and the transformation under the action of $S$, the formula for $\phi_0\left(\frac{-1}{z}\right)$

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

Implements Blueprint Lemma 7.2: the T- and S-transformation rules for φ₀.

**T-periodicity:** `φ₀ (z + 1) = φ₀ z`

**S-transformation** (where `S • z` is `z ↦ -1/z`):
```
φ₀ (S • z) = φ₀ z - (12*I)/(π*z) * φ₋₂ z - 36/(π²*z²) * φ₋₄ z
```

These are used in Section 7 to control the contour integrals in the Fourier-eigenfunction argument.

Closes #78

### New file: `SpherePacking/ModularForms/PhiTransform.lean`

Main theorems for φ₀:
| Lemma | Statement |
|-------|-----------|
| `φ₀_periodic` | `φ₀ (z + 1) = φ₀ z` |
| `φ₀_S_transform` | Main theorem (see above) |

**Naming:** The code uses `φ₂'` and `φ₄'` for the blueprint's φ₋₂ and φ₋₄ (Lean doesn't allow negative subscripts).

### Supporting lemmas (added to existing files)

**In `E2.lean`:**
| Lemma | Statement |
|-------|-----------|
| `E₂_periodic` | `E₂ (z + 1) = E₂ z` |
| `E₂_S_transform` | `E₂ (S • z) = z² * (E₂ z + 6/(π*I*z))` ¹ |

**In `Eisenstein.lean`:**
| Lemma | Statement |
|-------|-----------|
| `E₄_periodic` | `E₄ (z + 1) = E₄ z` |
| `E₆_periodic` | `E₆ (z + 1) = E₆ z` |
| `E₄_S_transform` | `E₄ (S • z) = z⁴ * E₄ z` |
| `E₆_S_transform` | `E₆ (S • z) = z⁶ * E₆ z` |

**In `Delta.lean`:**
| Lemma | Statement |
|-------|-----------|
| `Discriminant_SIF` | Δ as a `SlashInvariantForm` of weight 12 |
| `Δ_periodic` | `Δ (z + 1) = Δ z` |
| `Δ_S_transform` | `Δ (S • z) = z¹² * Δ z` |

¹ Note: `6/(π*I*z) = -6*I/(π*z)` via `Complex.inv_I`, so this is equivalent to the blueprint's `E₂(-1/z) = z²E₂(z) - 6iz/π`.

## Proof strategy

**Periodicity lemmas:** Use `SlashInvariantForm.vAdd_width_periodic` from mathlib with `simpa` for 1-line proofs.

**S-transformations:** Derive from the slash action properties of modular forms.

**φ₀_S_transform:**
1. Unfold `φ₀`, `φ₂'`, `φ₄'` and substitute the S-transformation rules for E₂, E₄, E₆, Δ
2. Set `A := E₂ z * E₄ z - E₆ z` (the key numerator factor)
3. Factor out `z⁶` from the transformed numerator, cancel with `z¹²` from Δ
4. Expand the square and use `Complex.inv_I = -I` to normalize the correction terms

## Dependencies

- `E₂_transform` from `E2.lean`
- `Discriminant_T_invariant`, `Discriminant_S_invariant` from `Delta.lean`
- E₄, E₆ slash invariance under Γ(1)

## Test plan

- [x] `lake build` passes
- [x] No sorries in new code
- [x] `#print axioms` shows only standard mathlib axioms

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: SpherePacking/ModularForms/PhiTransform.lean [hunk 1]
```diff
@@ -0,0 +1,210 @@
...
+  have h := G2_periodic
+  simp only [funext_iff] at h
+  specialize h z
+  rw [modular_slash_T_apply] at h
+  unfold E₂
+  simp only [Pi.smul_apply, smul_eq_mul]
+  rw [h]
+
+/-- E₄ is 1-periodic: E₄(z + 1) = E₄(z). This follows from E₄ being a modular form for Γ(1). -/
+lemma E₄_periodic (z : ℍ) : E₄ ((1 : ℝ) +ᵥ z) = E₄ z := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/PhiTransform.lean]: I think this and `E₆_periodic` should go under `ModularForms/Eisenstein.lean`. In fact, the best option would be upstreaming these to mathlib - is it already in mathlib in some form @CBirkbeck (with a much shorter proof)?

File: SpherePacking/ModularForms/PhiTransform.lean [hunk 2]
```diff
@@ -0,0 +1,210 @@
...
+  have h : (E₆.toFun ∣[(6 : ℤ)] ModularGroup.T) z = E₆.toFun z := by
+    apply congrFun
+    apply E₆.slash_action_eq'
+    simp only [Subgroup.mem_map, CongruenceSubgroup.mem_Gamma_one]
+    use ModularGroup.T
+  rw [modular_slash_T_apply] at h
+  exact h
+
+/-- Δ is 1-periodic: Δ(z + 1) = Δ(z) -/
+lemma Δ_periodic (z : ℍ) : Δ ((1 : ℝ) +ᵥ z) = Δ z := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/PhiTransform.lean]: Same for this; there's `ModularForms/Delta.lean`

File: SpherePacking/ModularForms/PhiTransform.lean [hunk 3]
```diff
@@ -0,0 +1,210 @@
...
+  have hz2 : (z : ℂ) * (z : ℂ) ≠ 0 := mul_ne_zero hz hz
+  have h2 : E₂ (ModularGroup.S • z) = (E₂ z + 6 / (π * Complex.I * z)) * ((z : ℂ) * (z : ℂ)) := by
+    have := congrArg (· * ((z : ℂ) * (z : ℂ))) h
+    simp only at this
+    rw [mul_assoc, inv_mul_cancel₀ hz2, mul_one] at this
+    exact this
+  rw [h2, sq, mul_comm]
+
+/-- E₄ transforms under S as: E₄(-1/z) = z⁴ · E₄(z) -/
+lemma E₄_S_transform (z : ℍ) : E₄ (ModularGroup.S • z) = z ^ (4 : ℕ) * E₄ z := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/PhiTransform.lean]: Similar for this and below

**Review by seewoo5 — CHANGES_REQUESTED** [review]

File: SpherePacking/ModularForms/Delta.lean [hunk 4]
```diff
@@ -84,11 +84,25 @@ lemma Discriminant_S_invariant : (Δ ∣[(12 : ℤ)] ModularGroup.S) = Δ := by
...
   field_simp
 
+/-- Δ as a SlashInvariantForm of weight 12 -/
 def Discriminant_SIF : SlashInvariantForm (CongruenceSubgroup.Gamma 1) 12 where
   toFun := Δ
   slash_action_eq' :=
     slashaction_generators_GL2R Δ 12 Discriminant_S_invariant Discriminant_T_invariant
 
+/-- Δ is 1-periodic: Δ(z + 1) = Δ(z) -/
+lemma Δ_periodic (z : ℍ) : Δ ((1 : ℝ) +ᵥ z) = Δ z := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Delta.lean:94]: Wouldn't it be better to do z + 1 instead? Same for other theorems.
```suggestion
lemma Δ_periodic (z : ℍ) : Δ (z +ᵥ (1 : ℝ)) = Δ z := by
```

Comment (cameronfreer) [reply SpherePacking/ModularForms/Delta.lean:94]: I'd be happy to make those changes, but am not sure which approach would be best. As I understand it, mathlib provides `AddAction ℝ ℍ` which gives `HVAdd ℝ ℍ` (left action), but there's no symmetric `HVAdd ℍ ℝ` instance. In particular, the current form (1 : ℝ) +ᵥ z matches how `SlashInvariantForm.vAdd_width_periodic` is stated in mathlib.

With a full import of mathlib (in `Mathlib.Algebra.Group.Defs`), there's a general instance `VAdd G P → HAdd P G P` that makes `z + (1 : ℝ)` work (but not `z +ᵥ (1 : ℝ)`), though I couldn't get this instance chain to resolve correctly with the project's partial imports, and adding specific imports caused instance resolution timeouts or conflicts. Should I try further in this direction?

I suppose we could also do one of the following options. What do you think is best?


1.   Add a scoped instance that provides `HAdd ℍ ℝ ℍ`:
```lean

-- In a common file like ForMathlib/UpperHalfPlane.lean
namespace UpperHalfPlane

scoped instance : HAdd ℍ ℝ ℍ where
  hAdd z x := x +ᵥ z

-- Prove they're definitionally equal
@[simp] lemma add_real_eq_vadd (z : ℍ) (x : ℝ) : z + x = x +ᵥ z := rfl

end UpperHalfPlane
```

Then in files that open UpperHalfPlane:
`lemma E₄_periodic (z : ℍ) : E₄ (z + 1) = E₄ z := by ...`

2. Define custom notation:
```lean
-- In a common file
namespace UpperHalfPlane

/-- Notation for translating z by a real number -/
scoped notation z " +ₕ " x => (x : ℝ) +ᵥ z

end UpperHalfPlane
```
  Then:
  `lemma E₄_periodic (z : ℍ) : E₄ (z +ₕ 1) = E₄ z := by ...`

3. Helper Definition

```lean
/-- Translate z ∈ ℍ by n ∈ ℤ -/
def translate (z : ℍ) (n : ℤ) : ℍ := (n : ℝ) +ᵥ z

@[simp] lemma translate_one (z : ℍ) : translate z 1 = (1 : ℝ) +ᵥ z := rfl
```
  Then:
  `lemma E₄_periodic (z : ℍ) : E₄ (z.translate 1) = E₄ z := by ...`

Comment (seewoo5) [reply SpherePacking/ModularForms/Delta.lean:94]: Ah, I didn't notice that. Then let's keep $1 + z$ for now. The way you suggested seems fine but probably not necessary for now.
